US04558155
N'-[2-(Dimethylamino)ethyl]-N-(1-methylethyl)-N-[2-(4-acetylaminophenoxy)ethyl]urea
The title compound is prepared by reacting the compound of Example 64: N'-[2-dimethylamino)ethyl]-N-(1-methylethyl)-N-[2-(4-aminophenoxy)ethyl]urea with acetyl chloride in triethylamine.

reactant | N-(1-methylethyl)-N-[2-(4-aminophenoxy)ethyl]urea | CC(C)N(C(=O)N)CCOC1=CC=C(C=C1)N | C12H19N3O2
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | N'-[2-(Dimethylamino)ethyl]-N-(1-methylethyl)-N-[2-(4-acetylaminophenoxy)ethyl]urea | CN(CCNC(N(CCOC1=CC=C(C=C1)NC(C)=O)C(C)C)=O)C | C18H30N4O3
